US06610701B2
A solution of 3-(tetrazol-1-yl)cyanopyridine (250 mg, 1.45 mmol) and 45% by weight of palladium on carbon, 10% catalyst (110 mg) in ethanol (75 ml) was placed on a PARR Hydrogenation Apparatus under a hydrogen atmosphere at 55 psi. overnight. The mixture was filtered through celite and concentrated to give 3-(tetrazol-1-yl)-2-aminomethylpyridine; 1H NMR (CD3OD) δ9.60 (s, 1H), 8.83-8.81 (m, 1H), 7.99-7.97 (m, 1H), 7.59-7.56 (m, 1H), 3.77 (s, 2H).

reactant | 3-(tetrazol-1-yl)cyanopyridine | 1.45 mmol, 250 mg | N1(N=NN=C1)C=1C(=NC=CC1)C#N | C7H4N6
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 3-(tetrazol-1-yl)-2-aminomethylpyridine | N1(N=NN=C1)C=1C(=NC=CC1)CN | C7H8N6
